US04642308
The procedure is similar to that described in Example 1, but starting with 4-fluorobenzoic acid (11.2 g), N,N'-carbonyldiimidazole (12.9 g) and 2-amino-7-chloro-1,8-naphthyridine (8.9 g). The product produced by precipitation in water (14.3 g; m.p. 230° C.) is dissolved in boiling 2-propanol (800 cc). After 4 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with 2-propanol (3×10 cc) and dried at 40° C. under reduced pressure (0.067 kPa). N-(7-chloro-1,8-naphthyridin-2-yl)-4-fluorobenzamide (10.3 g) is produced, m.p. 236° C. EXAMPLE 16

reactant | 4-fluorobenzoic acid | 11.2 g | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | 2-amino-7-chloro-1,8-naphthyridine | 8.9 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | 2-propanol | 800 cc | CC(C)O | C3H8O
solvent | water | 14.3 g | O | H2O
product | N-(7-chloro-1,8-naphthyridin-2-yl)-4-fluorobenzamide | 10.3 g | ClC1=CC=C2C=CC(=NC2=N1)NC(C1=CC=C(C=C1)F)=O | C15H9ClFN3O
